*****************************************************************
* NXP PSMN1R4-30YLD
*
* Polarity N-Channel
* Ratings 30V/1.420000E-003OHMS/100A
*
* Date Created Thu May 22 06:08:56 2014
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R4-30YLD DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 30000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.000618487871696491 TC=0.00643166581910772,8.88839596637102E-06
RBD 9 4 0.000357323004504142 TC=0.00643166581910772,8.88839596637102E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 240000000
CGS 2 6 2.37731701527039e-09
RG 1 2 1.07768

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
*+ -12	3274.28
*+ -10	3271.46
*+ -8	3267.26
*+ -6	3259.77
*+ -5	3252.39
*+ -4	3237.26
+ -3	3177.38
+ -2	2637.71
+ -1	1668.81
+ -0.5	1277.77
+ -0.2	1114.03
+ -0.1	1110.32
+ 0	1036.0964
+ 0.1	925.5104
+ 0.2	924.21564
+ 0.5	808.99852
+ 1	686.50848
+ 2	552.69872
+ 3	474.47636
+ 4	415.49396
+ 5	367.2252
+ 6	331.08148
+ 8	289.34856
+ 10	269.80424
+ 12	259.40352
+ 15	250.55516



.MODEL MINT NMOS(Vto=2.2 Kp=7.0e+002 Nfs=310000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=3.025013408866e-12
+ N=1 M=0.43 VJ=0.75 Fc=0.5 Cjo=5.566292e-09 Tt=1.9368e-08)

.ENDS

